* source COLPITTS
Q_Q1         N00182 0 N00155 BC107A 
R_R1         N00636 N00155  1k  
C_C1         N00182 N00155  10u IC=1 
C_C2         N00155 N00284  10u  
L_L1         N00182 N00284  10uH  
V_V2         N00284 0 5Vdc
V_V3         0 N00636 5Vdc
