* source NOISEGENERATOR
Q_Q1         N03392 N01801 N03176 BC107A 
R_R5         N02250 N00299  10K  
R_R3         N03392 N00299  1K  
R_R4         0 N03176  1K  
R_R1         N01801 N00299  10k  
C_C3         0 N03176  2.2u  
D_D1         0 N02250 Dbreak 
V_V1         N00299 0 10Vdc
C_C1         N02250 N01801  2.2u  
