* source WIEN
E_U1         N00270 0 VALUE {LIMIT(V(N00239,N00613)*1E6,-15V,+15V)}
R_R1         N00613 N00270  2k  
R_R2         0 N00613  1k  
R_R3         0 N00239  1k  
C_C1         N01209 N00239  100n IC=1v 
C_C2         0 N00239  100n IC=1v 
R_R6         N01209 N00270  1k  
